US08227504B2
6-Benzyloxymethyl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-nicotinamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 6-benzyloxymethyl-nicotinic acid. MS: 499.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 6-benzyloxymethyl-nicotinic acid | C(C1=CC=CC=C1)OCC1=NC=C(C(=O)O)C=C1 | C14H13NO3
product | 6-Benzyloxymethyl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-nicotinamide | C(C1=CC=CC=C1)OCC1=NC=C(C(=O)NC2=C(C=C(C=C2)N2CC(CC2)CN2C(CCC2)C)C)C=C1 | C31H38N4O2
